US07381719B2
6-(2,3-Difluoro-4-pentylaminomethyl-phenoxy)-nicotinamide
Combine 6-(2,3-difluoro-4-formyl-phenoxy)-nicotinamide (278 mg, 1.00 mmol), n-pentylamine (105 mg, 1.20 mmol), and MeOH (3 ml) in a round bottom flask equipped with nitrogen inlet and stir for two hours. Add NaBH4 (57 mg, 1.50 mmol) and stir for an additional two hours before concentrating. Dissolve concentrate in EtOAc and wash with 5% aq. KOH and brine, dry (Na2SO4), and concentrate. Purify on silica gel (5% (1 M NH3/MeOH)/DCM) to give the title compound (290 mg) as a white solid. Mass spectrum (ion spray): m/z=350 (M+1); 1H NMR (DMSO-d6): 8.55 (s, 1H), 8.28 (d, 1H), 8.03 (s, 1H), 7.50 (s, 1H), 7.29 (m, 1H), 7.22 (d, 1H), 7.15 (m, 1H), 3.73 (s, 2H), 2.48 (t, 2H), 1.41 (m, 2H), 1.25 (m, 4H), 0.84 (m, 3H).

reactant | 6-(2,3-difluoro-4-formyl-phenoxy)-nicotinamide | 1.00 mmol, 278 mg | FC1=C(OC2=NC=C(C(=O)N)C=C2)C=CC(=C1F)C=O | C13H8F2N2O3
reactant | n-pentylamine | 1.20 mmol, 105 mg | C(CCCC)N | C5H13N
reactant | NaBH4 | 1.50 mmol, 57 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | 6-(2,3-Difluoro-4-pentylaminomethyl-phenoxy)-nicotinamide | 290 mg | FC1=C(OC2=NC=C(C(=O)N)C=C2)C=CC(=C1F)CNCCCCC | C18H21F2N3O2
